*** Transient analysis of Philips Pmos9 (leve903) transistor. ***

* D G S B

.tran2  tstop = 50e-9 tstep = 0.5e-12

mosp9:m9 1 3 0 0

res:rd 1 2 r=1000

vsource:vds 2 0 vdc=-2v

vpulse:vgs 3 0 v1=0 v2=-4 td=0 tr=2e-9 tf=2e-9 pw=10e-9 per=20e-9

.out plot term 1 vt in "mosp9_id.tran" 

.out plot term 3 vt in "mosp9_id.in"

.end
