Open circuit test

.svhb n_freqs=32 fundamental=1e9 steps=4

open:3 3 4

* Input bias source.  
vsource:vindc 5 0 vdc=4.5
vsource:vin 1 5 vac=2. f=1e9
resistor:rin 1 2 r=1e3
*
* Output bias Source
vsource:vcc 4 0 vdc=4.25
resistor:rload 3 4 r=80
*
vct:a11 1 3 2  gamma=-2.3 beta=8 kf=0.0025 
* vct:b11 1 3 2  gamma=1.1 beta=1 kf=1 
+ poly = <5.979287283058695e-4 -2.334033466242205e-02 6.282215276145409e-02
+ -4.319540162756818e-02 9.169340904889009e-03>
resistor:re 2 0 r=10

.out plot element "open:3" 0 xf invfft 3 repeat in "out.vhb"


.end


