********Inverter driver********

.tran2 tstop=3ns tstep=0.01ns im=0 deriv=0 

vpulse:vin 1 0 v1=0V v2=5V td=0 tr=0.1ns tf=0.1ns pw=1ns per=2ns
vsource:vdd 2 0 vdc=2.5V
vsource:vss 3 0 vdc=0
vsource:ve 5 0 vdc=0
*vsource:vb 6 0 vdc=0
*resistor:rb 6 0 r=1e12

Mosnbsim3SOI5T1:m1 4 1 3 5 0 w=10e-6 l=0.25e-6 
Mospbsim3SOI5T1:m2 4 1 2 2 0 w=10e-6 l=0.25e-6 

.out plot term 4 vt in "vdsinv2.out"
.out plot term 1 vt in "vgsinv1.tran"
*.out plot element "vpulse:vin" 0 it in "axout.i"
*.out plot element "mosnbsim3SOI5T1:m1" 0 it in "dout.v"
.end

